US07368578B2
A mixture of 4-(4-chloromethyl-1,3-thiazol-2-yl)morpholine (1.00 g), potassium carbonate (0.64 g), vanillin (0.70 g) and N,N-dimethylformamide (30 mL) was stirred at 90° C. for 2 hrs. Water was poured into the reaction mixture, and the precipitated crystals were collected by filtration to give 3-methoxy-4-[(2-morpholin-4-yl-1,3-thiazol-4-yl)methoxy]benzaldehyde as colorless crystals (1.33 g, 86%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 122-123° C.

reactant | 4-(4-chloromethyl-1,3-thiazol-2-yl)morpholine | 1.00 g | ClCC=1N=C(SC1)N1CCOCC1 | C8H11ClN2OS
reactant | potassium carbonate | 0.64 g | C([O-])([O-])=O.[K+].[K+]
reactant | vanillin | 0.70 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 3-methoxy-4-[(2-morpholin-4-yl-1,3-thiazol-4-yl)methoxy]benzaldehyde | 1.33 g, 86% | COC=1C=C(C=O)C=CC1OCC=1N=C(SC1)N1CCOCC1 | C16H18N2O4S
